US09061013B2
1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid cyclopropylamide
To a stirred solution of 1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (Preparation 14, 0.1 g, 0.190 mmol) in dry DMF (3 mL) was added EDCl.HCl (0.055 g, 0.280 mmol), DIPEA (0.049 g, 0.380 mmol) and cyclopropyl amine (0.011 g, 0.190 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 18 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (10 mL), extracted with EtOAc (10 mL). Organic layer was washed with saturated solution of lithium chloride (3×20 mL), water (2×20 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 0.8% methanol in DCM to afford sticky mass, which was crystallized by chloroform:pentane (1:9) to afford off white solid (0.020 g, 20%). 1H-NMR (400 MHz, CDCl3) δ: 0.50-0.53 (m, 2H), 0.77-0.82 (m, 2H), 2.72-2.76 (m, 1H), 3.26-3.30 (m, 1H), 3.60 (d, 1H, J=17.12 Hz), 4.00 (d, 1H, J=17 Hz), 4.23-4.33 (m, 4H), 5.72 (bs, 1H), 6.47 (d, 1H, J=8.6 Hz), 7.40 (dd, 1H, J1=8.44 Hz, J2=1.88 Hz), 7.46 (d, 1H, J=1.8 Hz), 7.62 (s, 2H); LC-MS (m/z): [M−H] 563.50.

reactant | 1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid | 0.190 mmol, 0.1 g | ClC1=C(C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)N1CC(C1)C(=O)O | C20H13Cl4F3N2O3
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.280 mmol, 0.055 g | Cl | ClH
reactant | DIPEA | 0.380 mmol, 0.049 g | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl amine | 0.190 mmol, 0.011 g | C1(CC1)N | C3H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid cyclopropylamide | 0.020 g, 20% | C1(CC1)NC(=O)C1CN(C1)C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Cl | C23H18Cl4F3N3O2
